US07947728B1
To 6-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-1H-indole (37 mg, 0.10 mmol, 1 eq.) was added dimethylformamide (1 mL), cesium carbonate (40 mg, 0.11 mmol, 1.1 eq.) and 3-bromo-propionic acid ethyl ester (0.014 mL, 0.11 mmol, 1.1 eq.). The reaction was stirred and heated at 90° C. for 17 hr. The reaction was diluted with dimethylsulfoxide, filtered, and purified by HPLC with a 50-100% acetonitrile in water gradient to yield 3-[6-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-indol-1-yl]-propionic acid ethyl ester as clear oil (33 mg, 73%). LC-MS (ES) calculated for C27H25F2NO4, 465.2; found m/z 466 [M+H]+.

reactant | 6-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-1H-indole | 0.10 mmol, 37 mg, 1 eq. | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC1=CC=C2C=CNC2=C1)OC | C22H17F2NO2
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
reactant | cesium carbonate | 0.11 mmol, 40 mg, 1.1 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-bromo-propionic acid ethyl ester | 0.11 mmol, 0.014 mL, 1.1 eq. | C(C)OC(CCBr)=O | C5H9BrO2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 3-[6-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-indol-1-yl]-propionic acid ethyl ester | 33 mg, 73% | C(C)OC(CCN1C=CC2=CC=C(C=C12)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC)=O | C27H25F2NO4
